US08871950B1
(2S,3S,4S)-3,4,5-Tris(benzyloxy)-2-(((R)-1-phenylethyl)amino)pentanoic acid
To a solution of (2R,3S,4S)-3,4,5-tris(benzyloxy)-2-(((R)-1-phenylethyl)amino)pentan-1-ol (110 mg, 0.209 mmol) in acetone (2 mL, 0.1 M) was added Jones reagent (0.21 mL, 0.522 mmol, 2.5 M solution in H2O) at 0° C. The reaction mixture was stirred for 4 hrs at 0° C., quenched with isopropyl alcohol and filtered through a pad of celite and washed with CH2Cl2. The reaction mixture was partitioned between CH2Cl2 and water. The aqueous layer was extracted with CH2Cl2 and the combined organic layer was washed with brine, dried over MgSO4, filtered through a pad of celite, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate/hexane (1/2) to CH2Cl2/MeOH (20/1) to afford the title product. Yield: 59 mg (0.11 mmol, 52%); white solid.

reactant | (2R,3S,4S)-3,4,5-tris(benzyloxy)-2-(((R)-1-phenylethyl)amino)pentan-1-ol | 0.209 mmol, 110 mg | C(C1=CC=CC=C1)O[C@@H]([C@@H](CO)N[C@H](C)C1=CC=CC=C1)[C@H](COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H39NO4
reactant | Jones reagent | 0.522 mmol, 2.5 M, 0.21 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 0.1 M, 2 mL | CC(=O)C | C3H6O
product | (2S,3S,4S)-3,4,5-Tris(benzyloxy)-2-(((R)-1-phenylethyl)amino)pentanoic acid | C(C1=CC=CC=C1)O[C@@H]([C@@H](C(=O)O)N[C@H](C)C1=CC=CC=C1)[C@H](COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H37NO5
